US05866573
Step D: 4-Aminomethyl-2-t-butyloxycarbonylamino-3-methylpyridine
A solution of 175 mg (0.75 mmol) of 2-t-butyloxycarbonylamino-4-cyano-3-methylpyridine and 88 μL (1.5 mmol) of acetic acid in 10 mL of MeOH was hydrogenated over 75 mg of 10% Pd-C at 55 psi overnight on a Parr apparatus. The catalyst was removed by filtration, concentrated at reduced pressure, and the residue partitioned between CHCl3 and 10% Na2CO3. The aqueous layer was extracted with CHCl3 and the combined organic layers were dried over Na2SO4 and concentrated to give 150 mg of the title compound as a colorless oil:

reactant | 2-t-butyloxycarbonylamino-4-cyano-3-methylpyridine | 0.75 mmol, 175 mg | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1C)C#N | C12H15N3O2
reactant | acetic acid | 1.5 mmol, 88 μL | C(C)(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd-C | 75 mg | [Pd] | Pd
product | 4-Aminomethyl-2-t-butyloxycarbonylamino-3-methylpyridine | 150 mg | NCC1=C(C(=NC=C1)NC(=O)OC(C)(C)C)C | C12H19N3O2
